US05468762
Preparation of 1-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-ethanone
Diethylazodicarboxylate (20.7 mL, 131.6 mmol) in THF (35 mL) was added dropwise in to a cold (0° C.) solution of 4-(2'-hydroxy-ethyl)-5-methyl-2-phenyloxazole (25.0 g, 123.0 mmol), triphenylphosphine (34.5 g, 131.6 mmol), and 3'-hydroxyacetophenone (18.0 g, 131.6 mmol) and THF (180 mL). The mixture was allowed to come to room temperature and stirred for 48 hours. Then, it was poured into H2O, acidified with HCl (2N) and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography on silica gel (hexane/EtOAc 5/1) gave a white solid (30.5 g, 77% yield, m.p. 70°-71° C.). Analysis for: C20H19NO3Calc'd: C, 74.75; H, 5.96; N, 4.36 Found: C, 74.70; }I, 6.15; N, 4.28

reactant | Diethylazodicarboxylate | 131.6 mmol, 20.7 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-(2'-hydroxy-ethyl)-5-methyl-2-phenyloxazole | 123.0 mmol, 25.0 g | OCCC=1N=C(OC1C)C1=CC=CC=C1 | C12H13NO2
reactant | triphenylphosphine | 131.6 mmol, 34.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3'-hydroxyacetophenone | 131.6 mmol, 18.0 g | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | HCl | 2N | Cl | ClH
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 180 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | 1-{4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-ethanone | 30.5 g, 77% yield | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C1)C(C)=O | C20H19NO3
